Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ y/o M with history of PE not on 
anticoagulation
who presents for the evaluation of substernal chest pain.

He states that he was in his USOH today when he developed
substernal chest pain radiating to his back and left arm. This
was associated with diaphoresis, nausea, vomiting, chills,
shortness of breath. He presented to a community hospital in
___ where they wanted to admit him, however he signed out 
AMA
because they were 'doing things in the wrong order'. He flew 
back
from ___ where he continued to have chest pain, described as
an increasing heaviness in the ___ his chest. He took ASA
325 mg and Nitro SL x 3 before presenting to the hospital, which
was leftover from a previous provider. This chest pain and
dyspnea do not change with activity and was not improved by
nitroglycerin. 

Of note, he was diagnosed with a DVT/PE about 6 months ago, 
which
he believes was in ___. He took the medication for two weeks
and then stopped. He also notes that he used to see a doctor at
___ who wanted to do a cardiac cath previously, however
he refused.

In the ED, initial VS were:
98.8 113 120/78 18 98% RA 

Exam notable for:
NAD. HEENT, heart, lungs unremarkable. Abdomen soft. ___
without edema. Neuro AOx3 without facial droop or gross focal
deficit.

ECG: Sinus rhythm 101. Normal PR, QRS, and QTc intervals. Small
submillimeter Q waves in 1 and aVL. No evidence of territorial 
ST
segment deviation or T-wave inversion.

Labs showed:
Troponin <0.01, MB 5 x 2
CK 400s
WBC 11.6 Hgb 12.9 Hct 38.1 Plt 199
BMP unremarkable
D-dimer 237

Imaging showed:

CXR: No acute intrathoracic abnormality.

CTA Chest: There is a subtle filling defect in a subsegmental
pulmonary arterial branch in the left lower lobe, without
evidence of pulmonary infarct or right heart strain.

Consults: None

Patient received:
Lorazepam .5 mg 
SL Nitroglycerin SL .4 mg 
SC Enoxaparin Sodium 80 mg 

Transfer VS were:  
43 111/60 16 97% RA 
 
On arrival to the floor, patient confirms the above history. He
continues to endorse chest pain with associated shortness of
breath.

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI

 
Past Medical History:
DVT/PE in ___

 
Social History:
___
Family History:
FH of CAD in several family members. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS:98.0 ___ 20 96 Ra 
GENERAL: NAD, appears comfortable
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, no JVD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles, speaking in full sentences but
endorsing dyspnea
GI: abdomen soft, nondistended, mild TTP in epigastric region, 
no
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric

***PATIENT ELOPED SO NO DISCHARGE PHYSICAL EXAM
 
Pertinent Results:
ADMISSION LABS
==============

___ 10:42PM BLOOD WBC-11.6* RBC-4.19* Hgb-12.9* Hct-38.1* 
MCV-91 MCH-30.8 MCHC-33.9 RDW-12.6 RDWSD-41.4 Plt ___
___ 10:42PM BLOOD Neuts-67.9 ___ Monos-7.1 Eos-1.0 
Baso-0.2 Im ___ AbsNeut-7.84* AbsLymp-2.72 AbsMono-0.82* 
AbsEos-0.12 AbsBaso-0.02
___ 10:42PM BLOOD Glucose-114* UreaN-18 Creat-1.0 Na-140 
K-3.9 Cl-103 HCO3-24 AnGap-13
___ 10:42PM BLOOD CK(CPK)-404*
___ 10:42PM BLOOD CK-MB-5 cTropnT-<0.01

PERTINENT INTERVAL LABS
=======================

___ 07:28AM BLOOD WBC-6.1 RBC-4.35* Hgb-13.9 Hct-40.0 
MCV-92 MCH-32.0 MCHC-34.8 RDW-12.6 RDWSD-41.7 Plt ___
___ 07:28AM BLOOD Glucose-93 UreaN-17 Creat-1.0 Na-141 
K-4.3 Cl-101 HCO3-29 AnGap-11
___ 02:54AM BLOOD Lipase-36
___ 02:54AM BLOOD CK-MB-5
___ 02:54AM BLOOD cTropnT-<0.01
___ 07:28AM BLOOD Calcium-8.9 Phos-3.1 Mg-1.8
___ 09:28AM BLOOD calTIBC-281 Ferritn-65 TRF-216
___ 01:09PM BLOOD %HbA1c-5.4 eAG-108
___ 01:09PM BLOOD Triglyc-78 HDL-53 CHOL/HD-3.1 LDLcalc-97

NO DISCHARGE LABS AS PATIENT ELOPED
 
Brief Hospital Course:
___ yo M with hx of PE/DVT in ___ who presented with chest pain.

#Chest pain
Patient presented with severe chest pain radiating down his arm. 
His EKG was negative for any signs of ischemia. His had 
troponins checked x2 which were negative. He had at CTA to rule 
out PE which was initially read as filling defect. He was 
started on IV heparin and admitted to medicine. The following 
dya on final read of the CTA  "No pulmonary embolism or acute
aortic process" so all anticoagulation was stopped. As far as 
cause of his chest pain
it seems unlikely cardiac given his normal EKG and negative
biomarkers. He is intermediate risk given his is a smoker, 
recent
alcoholic, with strong family history. He was ordered for a 
stress test but eloped before he could undergo this. Overall 
seems more likely c/w costocondritits given it is reproducible 
on exam and improved with lidocaine patch. He eloped and we were 
not able to give him any follow up instructions. He should 
follow with a PCP as soon as possible. 

>30 minutes spent on complex discharge

 
Medications on Admission:
None
 
Discharge Medications:
Patient eloped
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Costochondritis
 
Discharge Condition:
Clear, coherent; alert and interactive; able to ambulate 
independently
 
Discharge Instructions:
PATIENT ELOPED
 
Followup Instructions:
___